US08084485B2
To a solution of methyl 1-(3-methoxypropyl)-1H-indazole-6-carboxylate (1.26 g, 5 mmol) in MeOH (15 mL), NaBH4 (1.52 g, 40 mmol) was added in portions such that the temperature remained below 40° C. The mixture was stirred at rt for 12 h. TLC showed the starting material had been consumed. The solvent was removed in vacuo and the residue was partitioned between water and EtOAc. The organic layers were washed with H2O and brine, dried over Na2SO4, and evaporated to produce (1-(3-methoxypropyl)-1H-indazol-6-yl)methanol (1.05 g, 95%), which was used in the next step without purification.

reactant | methyl 1-(3-methoxypropyl)-1H-indazole-6-carboxylate | 5 mmol, 1.26 g | COCCCN1N=CC2=CC=C(C=C12)C(=O)OC | C13H16N2O3
reactant | NaBH4 | 40 mmol, 1.52 g | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | (1-(3-methoxypropyl)-1H-indazol-6-yl)methanol | 1.05 g, 95% | COCCCN1N=CC2=CC=C(C=C12)CO | C12H16N2O2
